US08980326B2
HO-Glu(Bzl)-NH2 (30.0 g, 126.0 mmol) was suspended in 300 mL of anhydrous THF and heated to 50° C. Phosgene (20% in toluene) (81.3 mL, 164.6 mmol) was added to the amino acid suspension by syringe, and the amino acid dissolved over the course of approx. 30 minutes, forming a clear solution. The solution was concentrated by rotory evaporation, dissolved in ˜150 mL of anhydrous THF, and transferred to an Erlenmeyer flask. Hexane was added and the product was allowed to crystallize overnight. The NCA was isolated by filtration and dried in vacuo. 29.8 g (90% yield) of Glu(Bzl) NCA was isolated as a white, crystalline solid. 1H NMR (CDCl3) δ 7.36 (5H), 6.22 (1H), 5.14 (2H), 4.35 (1H), 2.61 (2H), 2.29 (1H), 2.14 (1H) ppm.

reactant | HO-Glu(Bzl)-NH2 | 126.0 mmol, 30.0 g | ON[C@@H](CCC(OCC1=CC=CC=C1)=O)C(=O)N | C12H16N2O4
reactant | Phosgene | 164.6 mmol, 81.3 mL | C(=O)(Cl)Cl | CCl2O
solvent | THF | 300 mL | C1CCOC1 | C4H8O
product | Glu(Bzl) | 29.8 g, 90% yield | N[C@@H](CCC(OCC1=CC=CC=C1)=O)C(=O)O | C12H15NO4
